US04877802
A mixture of 4-chlorophenol (28.3 g, 0.22 mol), ethylene carbonate (19.4 g, 0.22 mol) and tetraethylammonium iodide (10 g, 3.6 mmol) was heated at 160° C. for 3 hours and then cooled to room temperature. Chloroform (500 ml) was added and the resultant solution was washed with water and then dried over anhydrous sodium sulphate. Evaporation of the solvent gave 2-(4-chlorophenoxy)ethanol (40.0 g) which was dissolved in ether (400 ml) containing triethylamine (20 g, 0.2 mol). A solution of 4-chlorophenylsulphonyl chloride (42.0 g, 0.2 mol) in ether (150 ml) was added dropwise and the resultant mixture was refluxed for 40 hours and then cooled. The precipitate was filtered off and washed well with dichloromethane. The combined filtrate and washings were dried over anhydrous sodium sulphate. After removal of the solvent by evaporation, the residue was recrystallised from ethyl acetate to give 2-(4-chlorophenoxy)-1-(4-chlorophenylsulphonyl)ethane as a white solid (34.6 g, m.pt. 108° C.

reactant | 4-chlorophenol | 0.22 mol, 28.3 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | ethylene carbonate | 0.22 mol, 19.4 g | C1(OCCO1)=O | C3H4O3
catalyst | tetraethylammonium iodide | 3.6 mmol, 10 g | [I-].C(C)[N+](CC)(CC)CC
solvent | Chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-chlorophenoxy)ethanol | 40.0 g | ClC1=CC=C(OCCO)C=C1 | C8H9ClO2
